US08809539B2
To a solution of 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (2,2-dimethyl-propanoyl-oxymethyl) ester (0.37 g, 0.00052 mol) in a mixture of ethanol and ethyl acetate (20 mL, 1:1) is added 5% Pd/C (0.133 g). The reaction mixture is stirred at room temperature and hydrogen gas is bubbled through it. This process is continued for 2.5 hours. The reaction mixture is filtered through a celite bed, washed with tetrahydrofuran (2×30 mL) and the filtrate is concentrated under reduced pressure to give a solid mass which is purified by column chromatography (silica gel 230-400 mesh, methanol:dichloromethane 15:85) to give 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid (2,2-dimethyl-propanoyloxymethyl)ester (e.g. 39).

reactant | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (2,2-dimethyl-propanoyl-oxymethyl) ester | 0.00052 mol, 0.37 g | CC(C(=O)OCOC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1)(C)C | C41H40FN3O7
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.133 g | [Pd] | Pd
product | 1-{4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzyl}-piperidine-4,4-dicarboxylic acid (2,2-dimethyl-propanoyloxymethyl)ester | CC(C(=O)OCOC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O)(C)C | C34H34FN3O7
